US05441955
A solution of 3-(N-t-butyloxycarbonylamino)-8-fluoroindolo[2,1-b]quinazoline-6,12-dione (0.5 mmol), (R)-glycidyl butyrate (0.55 mmol) and lithium hydride (0.60 mmol) in DMF is allowed to stir at room temperature overnight. The reaction mixture is diluted with CHCl3, washed with 0.1N HCl, sodium bicarbonate solution, dried (MgSO4) and the solvent is evaporated. Silica gel chromatography (1% MeOH/CHCl3) gives 3-(5-hydroxymethyloxazolidin-3-yl)-8-fluoroindolo[2,1-b]quinazoline-6,12-dione.

reactant | 3-(N-t-butyloxycarbonylamino)-8-fluoroindolo[2,1-b]quinazoline-6,12-dione | 0.5 mmol | C(C)(C)(C)OC(=O)NC1=CC=C2C(N3C(=NC2=C1)C(C1=CC(=CC=C13)F)=O)=O | C20H16FN3O4
reactant | (R)-glycidyl butyrate | 0.55 mmol | C(CCC)(=O)OC[C@H]1CO1 | C7H12O3
reactant | lithium hydride | 0.60 mmol | [H-].[Li+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-hydroxymethyloxazolidin-3-yl)-8-fluoroindolo[2,1-b]quinazoline-6,12-dione | OCC1CN(CO1)C1=CC=C2C(N3C(=NC2=C1)C(C1=CC(=CC=C13)F)=O)=O | C19H14FN3O4
